US08497264B2
In a 25-ml flask, 2′-bromo-7′-hydroxyspiro[morpholine-3,9′-xanthen]-5-one (0.020 g, 0.055 mmol) was dissolved in DMF (1 mL). Cesium carbonate (0.043 g, 0.133 mmol) was added, followed by 1-iodo-2,2-dimethylpropane (0.022 g, 0.110 mmol). The reaction was heated in a 115° C. oil bath for 10 h. The reaction was cooled to ambient temperature and concentrated. The residue was taken up in 0.3 M aqueous HCl (15 mL) and the aqueous layer was extracted with EtOAc (3×20 mL). The organic layers were combined, washed with saturated brine (5 mL), dried over sodium sulfate, and concentrated. The residue was purified by chromatography (25% EtOAc/hexane) to afford (R)-2′-bromo-7′-(neopentyloxy)spiro[morpholine-3,9′-xanthen]-5-one.

reactant | 2′-bromo-7′-hydroxyspiro[morpholine-3,9′-xanthen]-5-one | 0.055 mmol, 0.020 g | BrC1=CC=2C3(C4=CC(=CC=C4OC2C=C1)O)NC(COC3)=O | C16H12BrNO4
reactant | Cesium carbonate | 0.133 mmol, 0.043 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 1-iodo-2,2-dimethylpropane | 0.110 mmol, 0.022 g | ICC(C)(C)C | C5H11I
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | (R)-2′-bromo-7′-(neopentyloxy)spiro[morpholine-3,9′-xanthen]-5-one | BrC1=CC=2[C@@]3(C4=CC(=CC=C4OC2C=C1)OCC(C)(C)C)NC(COC3)=O | C21H22BrNO4
